US04374773
55.25 g (0.16 mol) of 5-(o-fluorophenyl)-1,3-dihydro-3,3-dimethyl-7-nitro-2H-1,4-benzodiazepin-2-one, dissolved in 800 ml of tetrahydrofuran, are treated portionwise and while stirring at room temperature with 9.7 g of a 55 to 60 percent sodium hydride dispersion and the mixture is stirred at 50° C. for a further 60 minutes. 100 g (0.39 mol) of dimorpholinochlorophosphate are added to the cooled solution and the mixture is stirred at room temperature for 24 hours. After the addition of 50 g (0.67 mol) of acetic acid hydrazide, the mixture is stirred at room temperature for a further 45 hours and concentrated in vacuo. The residue is taken up in methylene chloride; the organic phase is washed with water and the solvent is removed. The residue is treated with 1.2 liters of n-butanol and heated to boiling under reflux. After distilling off 350 ml of solvent, the mixture remaining is heated at reflux for a further 1 hour and concentrated in vacuo. The residue is dissolved in 250 ml of hot ethanol. After cooling to -10° C., there is obtained crystalline 6-(o-fluorophenyl)-1,4,4-trimethyl-8-nitro-4H-s-triazolo[4,3-a][1,4]benzodiazepine of melting point 195° C.

reactant | 5-(o-fluorophenyl)-1,3-dihydro-3,3-dimethyl-7-nitro-2H-1,4-benzodiazepin-2-one | 0.16 mol, 55.25 g | FC1=C(C=CC=C1)C1=NC(C(NC2=C1C=C(C=C2)[N+](=O)[O-])=O)(C)C | C17H14FN3O3
reactant | sodium hydride | [H-].[Na+]
reactant | acetic acid hydrazide | 0.67 mol, 50 g | C(C)(=O)NN | C2H6N2O
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
product | 6-(o-fluorophenyl)-1,4,4-trimethyl-8-nitro-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(C=C3)[N+](=O)[O-])C(=NN2)C)(C)C | C19H16FN5O2
